US05955476
To a stirred suspension of 1,3-dioxo-2-(2,6-dioxopiperidin-3-yl)isoindoline (2.0 g, 7.75 mmol) and di-tert.-butyl dicarbonate (1.86 g, 8.52 mmol) in 1,4-dioxane (3.0 mL) is added dimethylaminopyridine (1.00 mg) at room temperature. The solution is stirred at room temperature for 18 hours and the solvent then removed in vacuo. The residue is stirred with ether (30 mL) for 30 minutes, filtered, and washed with ether to give 1,3-dioxo-2-(1-tert.-butoxycarbonyl-2,6-dioxopiperidin-3-yl)isoindoline.

reactant | 1,3-dioxo-2-(2,6-dioxopiperidin-3-yl)isoindoline | 7.75 mmol, 2.0 g | O=C1N(C(C2=CC=CC=C12)=O)C1C(NC(CC1)=O)=O | C13H10N2O4
reactant | di-tert.-butyl dicarbonate | 8.52 mmol, 1.86 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 1.00 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | 1,3-dioxo-2-(1-tert.-butoxycarbonyl-2,6-dioxopiperidin-3-yl)isoindoline | O=C1N(C(C2=CC=CC=C12)=O)C1C(N(C(CC1)=O)C(=O)OC(C)(C)C)=O | C18H18N2O6
